US04288436
Phosphorus oxychloride (0.65 g.) was added under ice-cooling to dry dimethylformamide (0.31 g.) and the mixture was stirred for 30 minutes at 40° C. Dry ethyl acetate (15 ml.) was added thereto and to the suspension was added under ice-cooling 2-methoxyimino-2-(1,2,3-thiadiazol-4-yl)-acetic acid (syn isomer) (0.65 g.), after which the resulting mixture was vigorously stirred for 30 minutes at the same temperature to give a solution. On the other hand, trimethylsilylacetamide (4.20 g.) was added to a suspension of 7-amino-3-(1-carboxymethyl-1H-tetrazol-5-yl)thiomethyl-3-cephem-4-carboxylic acid (1.20 g.) in dry ethyl acetate (50 ml.),. and the mixture was stirred for 2.5 hours at ambient temperature. To this suspension was at a time added at -20° C. the above-obtained ethyl acetate solution, and the resulting mixture was stirred for 1.5 hours at the same temperature. The reaction mixture was extracted after addition of ethyl acetate (70 ml.) and water (35 ml.). The organic layer was extracted with a sodium bicarbonate aqueous solution (35 ml.). To the aqueous extract was added ethyl acetate (70 ml.), and the mixture was adjusted to pH 2.0 with conc. hydrochloric acid with stirring and then the ethyl acetate layer was separated. The ethyl acetate layer was washed with a sodium chloride aqueous solution and dried over magnesium sulfate. The solvent was distilled off to give white powder of 7-[2-methoxyimino-2-(1,2,3-thiadiazol-4-yl)acetamido]-3-(1-carboxymethyl-1H-tetrazol-5-yl)thiomethyl-3-cephem-4-carboxylic acid (syn isomer) (1.36 g.).

reactant | Phosphorus oxychloride | 0.65 g | P(=O)(Cl)(Cl)Cl | Cl3OP
reactant | 2-methoxyimino-2-(1,2,3-thiadiazol-4-yl)-acetic acid | 0.65 g | CON=C(C(=O)O)C=1N=NSC1 | C5H5N3O3S
reactant | trimethylsilylacetamide | 4.20 g | C[Si](C)(C)CC(=O)N | C5H13NOSi
reactant | 7-amino-3-(1-carboxymethyl-1H-tetrazol-5-yl)thiomethyl-3-cephem-4-carboxylic acid | 1.20 g | NC1[C@@H]2N(C(=C(CS2)CSC2=NN=NN2CC(=O)O)C(=O)O)C1=O | C11H12N6O5S2
solvent | ethyl acetate | 50 ml | C(C)(=O)OCC | C4H8O2
solvent | ethyl acetate | 15 ml | C(C)(=O)OCC | C4H8O2
solvent | dimethylformamide | 0.31 g | CN(C=O)C | C3H7NO
product | 7-[2-methoxyimino-2-(1,2,3-thiadiazol-4-yl)acetamido]-3-(1-carboxymethyl-1H-tetrazol-5-yl)thiomethyl-3-cephem-4-carboxylic acid | 1.36 g | CON=C(C(=O)NC1[C@@H]2N(C(=C(CS2)CSC2=NN=NN2CC(=O)O)C(=O)O)C1=O)C=1N=NSC1 | C16H15N9O7S3
